US08022073B2
29 mg of sodium hydride (55% oil dispersion) was added to tetrahydrofuran. Into this, a tetrahydrofuran solution of 3,5-dimethylpyrazole was added dropwise. The resultant mixture was added dropwise into 0.20 g of 5-(4-chloro-phenyl)-3,4-dichloro-6-methylpyridazine while cooling with ice. The mixture was stirred overnight at room temperature. To the reaction mixture was added ethyl acetate, and the mixture was washed with dilute hydrochloric acid water and brine sequentially. The organic layer was dried over anhydrous magnesium sulfate, then, concentrated under reduced pressure. 0.27 g of the resultant residue was subjected to silica gel column chromatography, to obtain 50 mg of 3-chloro-5-(4-chlorophenyl)-4-(3,5-dimethyl-1-pyrazolyl)-6-m ethylpyridazine (hereinafter, described as compound (2) of the present invention) and 59 mg of 4-chloro-5-(4-chlorophenyl)-3-(3,5-dimethyl-1-pyrazolyl)-6-m ethylpyridazine.

reactant | sodium hydride | 29 mg | [H-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
reactant | 5-(4-chloro-phenyl)-3,4-dichloro-6-methylpyridazine | 0.20 g | ClC1=CC=C(C=C1)C=1C(=C(N=NC1C)Cl)Cl | C11H7Cl3N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-5-(4-chlorophenyl)-4-(3,5-dimethyl-1-pyrazolyl)-6-m ethylpyridazine | 50 mg | ClC=1N=NC(=C(C1N1N=C(C=C1C)C)C1=CC=C(C=C1)Cl)C | C16H14Cl2N4
